US08058299B2
A solution of (S)-2-(3-chloro-4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoylamino)-3-methyl-butyric acid methyl ester (30 mg, 0.05 mmol) in a mixture of tetrahydrofuran, methanol and water (3:1:1, 2 mL) was treated with lithium hydroxide monohydrate (6 mg, 0.15 mmol) at 50° C. for an hour. The reaction mixture was concentrated, diluted with water and the pH was adjusted to 1˜2 with dilute hydrochloric acid (1N). The white precipitate was collected by centrifugation, and then was dried under vacuum to give 2-(3-chloro-4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoylamino)-3-methyl-butyric acid (27 mg, 93%) as a white solid. LCMS calcd for C28H22ClF3N4O5 (m/e) 586, obsd 587 (M+H).

reactant | (S)-2-(3-chloro-4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoylamino)-3-methyl-butyric acid methyl ester | 0.05 mmol, 30 mg | COC([C@H](C(C)C)NC(C1=CC(=C(C=C1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)Cl)=O)=O | C29H24ClF3N4O5
reactant | methanol | CO | CH4O
reactant | water | 2 mL | O | H2O
reactant | lithium hydroxide monohydrate | 0.15 mmol, 6 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3-chloro-4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoylamino)-3-methyl-butyric acid | 27 mg, 93% | ClC=1C=C(C(=O)NC(C(=O)O)C(C)C)C=CC1C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C28H22ClF3N4O5
